2134-04-02 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -USD: Limited study, no obvious intrahepatic ductal dilation
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 14 units/hour
   Other ICU medications:
   Fentanyl - [**2134-4-2**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-4-2**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 104 (104 - 107) bpm
   BP: 124/68(80) {122/65(79) - 140/74(89)} mmHg
   RR: 29 (24 - 38) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    205 mL
                                                                  2,696 mL
   PO:
             TF:
   IVF:
                                                                    205 mL
                                                                  2,696 mL
   Blood products:
   Total out:
                                                                    180 mL
                                                                    780 mL
   Urine:
                                                                    180 mL
                                                                    780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     25 mL
                                                                  1,916 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///13/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: +TTP in
   epigastrum RUQ and LUQ, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   436 K/uL
   13.6 g/dL
   235 mg/dL
   2.8 mg/dL
   13 mEq/L
   3.9 mEq/L
   72 mg/dL
   113 mEq/L
   138 mEq/L
   39.3 %
   19.1 K/uL
        [image002.jpg]
                             [**2134-4-1**]  10:53 PM
                             [**2134-4-2**]  03:01 AM
   WBC
   19.1
   Hct
   39.3
   Plt
   436
   Cr
   3.2
   2.8
   Glucose
   354
   235
   Other labs: PT / PTT / INR:12.1/21.8/1.0, ALT / AST:[**11-12**], Alk Phos / T
   Bili:79/0.3, Amylase / Lipase:[**Telephone/Fax (1) 4878**], Differential-Neuts:88.0 %,
   Lymph:6.3 %, Mono:5.4 %, Eos:0.2 %, Lactic Acid:1.6 mmol/L, Albumin:3.5
   g/dL, LDH:153 IU/L, Ca++:7.7 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 52M with no current history of Diabetes, who is being
   transferred to [**Hospital1 5**] for further management of DKA, acute pancreatitis,
   and oliguric acute renal failure.
   .
   #. Acute pancreatitis: Unclear precipitant.  ?[**3-8**] to medications,
   hypertriglyceridemia (only mildly elevated), stone that passed or viral
   infection.  No ductal dilation by CT scan or U/S and LFTs normal.
   Aggressive volume resuscitation as likely with substantial third
   spacing - may require up to 10L of fluid per day.  Given negative CT
   scan for necrosis no indication to consider antibiotics at this point.
   - Monitor for complications
   - Triglycerides -> mildly elevated
   - abdominal U/S -> Limited study, no obvious intrahepatic ductal
   dilation
   - [**Last Name (un) **] score: 1% predicted mortality by [**Last Name (un) **] criteria at OSH.
   - appreciate surgery recs: no intervention at this time, will follow
   - Monitor ionized calcium.
   - Trend CBC for bleeding.
   .
   #. DKA: Likely [**3-8**] to severe pancreatitis.  aggressive volume
   resuscitation, replete K+, monitor gap.  Likely now with hyperchloremic
   acidosis [**3-8**] over-resuscitation with NS IVF.
   - Continue insulin gtt while pt continues to be NPO and clinical course
   still unpredictable
   - q1H FSG's
   - D10 for IVF
   - replete K+ in IVF
   - Check A1C
   .
   #. Acute oliguric renal failure: ?[**3-8**] to underresuscitation or whether
   patient has progressed to ATN (more likely).  UOP has picked up on
   arrival.  No indication for acute hemodialysis at this time.
   - Aggressive volume challenge with intubation PRN
   - Consult renal in AM, no need for acute HD overnight.
   - foley placement, follow UOP.
   - Renal ultrasound for obstruction, renal lytes
   - hold colchicine for renal failure, and renally dose all medications
   - follow lytes
   .
   #. Respiratory status: Tachypnea, on 2L NC at time of transfer, but
   some likelihood of manifesting ARDS and severe pulmonary complications
   given mildly severe pancreatitis.  tachypnea and tachycardia likely [**3-8**]
   to inadequate pain control on transfer.
   - Continue fluids and monitor
   .
   #. Acidemia/Electrolytes: improving
   - Acidemia: follow VBG
   - Trend phosphate as well, aggressive repletion
   .
   #. Pain Control: Received fentanyl on presentation
   - will change to Dilaudid PCA today.
   .
   #. HTN: Supportive care, hold outpatient BP meds in setting of severe
   acute pancreatitis.
   .
   #. Hyperlipidemia: Check lipid panel to r/o hypertriglyceridemia as
   cause for pancreatitis.
   - triglycerides not severely elevated enough to be likely cause of
   pancreatitis
   .
   #. Gout: hold colchicine in setting of ARF.
   .
   #. FEN: IVF's, strict NPO status -> will need PICC/central line today
   to receive TPN, will try to transition to
trophic
 TFs through
   post-pyloric tube next week (if can not tolerate POs)
   .
   #. PPX:
   -DVT ppx with heparin SQ
   -Stress ulcer with PPI IV
   .
   ACCESS: [**Last Name (LF) 3092**], [**First Name3 (LF) 124**] request PICC today ([**4-2**]) and if unsuccessful will
   obtain CVL
   .
   CODE STATUS: FULL
   .
   EMERGENCY CONTACT:
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-4-2**] 01:21 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Critical Care
   Glu improving and may sl better but creat remains elevated, pH low
   (mostly non-gap acidosis), and c/o severe abd pain.  We are giving IVF
   primarily as 0.5NS, repleting phos and K+, initiating PCA for pain
   control, dosing meds for renal failure.  It is concerning that he is
   not compensating for metab acidosis.  We will obtain central access,
   initiate feeding IV this weekend with plan for post pyloric feeding if
   pancreatitis is still severe by Monday.
   Time spent 50 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2134-4-2**] 12:48 ------

2134-04-03 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**4-2**] Events:
   closed gap
   *did not give CT pancreas and abdominal imaging from CD to our dept*
   RUQ u/s did not show any gallstone pancreatitis
   straed morphine PCA
   did not place post-pyloric tube
   continued insulin drip and D10 @50cc/hr
 PICC LINE - START [**2134-4-2**] 04:45 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-4-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-4-2**] 08:00 AM
   Fentanyl - [**2134-4-2**] 08:00 AM
   Morphine Sulfate - [**2134-4-2**] 04:43 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-4-3**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 117 (102 - 121) bpm
   BP: 80/68(72) {80/64(72) - 156/80(94)} mmHg
   RR: 23 (23 - 42) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,384 mL
                                                                    620 mL
   PO:
             TF:
   IVF:
                                                                  5,384 mL
                                                                    620 mL
   Blood products:
   Total out:
                                                                  2,173 mL
                                                                    280 mL
   Urine:
                                                                  2,173 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,211 mL
                                                                    340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.27/30/114/12/-11
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: very tachypneic (Expansion: Symmetric), (Breath
   Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: +TTP in
   epigastrum RUQ and LUQ, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, mental status
   more depressed today than yesterday
   Labs / Radiology
   309 K/uL
   12.5 g/dL
   209 mg/dL
   2.7 mg/dL
   12 mEq/L
   4.6 mEq/L
   60 mg/dL
   113 mEq/L
   141 mEq/L
   35.5 %
   22.6 K/uL
        [image002.jpg]
                             [**2134-4-1**]  10:53 PM
                             [**2134-4-2**]  03:01 AM
                             [**2134-4-2**]  07:29 AM
                             [**2134-4-2**]  02:06 PM
                             [**2134-4-2**]  04:25 PM
                             [**2134-4-3**]  04:48 AM
                             [**2134-4-3**]  05:10 AM
   WBC
   19.1
   18.9
   15.3
   22.6
   Hct
   39.3
   39.2
   37.0
   35.5
   Plt
   436
   386
   259
   309
   Cr
   3.2
   2.8
   2.3
   2.0
   2.7
   TropT
   <0.01
   <0.01
   TCO2
   13
   14
   Glucose
   354
   235
   141
   172
   209
   Other labs: PT / PTT / INR:12.7/25.1/1.1, CK / CKMB /
   Troponin-T:77/4/<0.01, ALT / AST:[**8-15**], Alk Phos / T Bili:74/0.4,
   Amylase / Lipase:438/820, Differential-Neuts:88.0 %, Lymph:6.3 %,
   Mono:5.4 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L, Albumin:2.7 g/dL,
   LDH:224 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 52M with no current history of Diabetes, who is being
   transferred to [**Hospital1 5**] for further management of DKA, acute pancreatitis,
   and oliguric acute renal failure.
   .
   #. Acute pancreatitis: Unclear precipitant.  ?[**3-8**] to medications,
   hypertriglyceridemia (only mildly elevated), stone that passed or viral
   infection.  No ductal dilation by CT scan or U/S and LFTs normal.
   Aggressive volume resuscitation as likely with substantial third
   spacing - may require up to 10L of fluid per day.  Given negative CT
   scan for necrosis no indication to consider antibiotics at this point,
   although if spikes fever would consider rescanning and starting abx.
   - continue aggressive fluid [**Month/Day (2) 4915**] with D5NS with 3 amp bicarb
   at 250 cc/hr today with NS boluses PRN
   - fell behind with fluids overnight, will be very aggressive today
   - Triglycerides -> mildly elevated
   - abdominal U/S -> Limited study, no obvious intrahepatic ductal
   dilation
   - [**Last Name (un) **] score: 1% predicted mortality by [**Last Name (un) **] criteria at OSH.
   - appreciate surgery recs: no intervention at this time, will follow
   - Monitor ionized calcium
 at risk of precipitating calcium.
   - Trend CBC for bleeding.
   .
   #. DKA: Likely [**3-8**] to severe pancreatitis.  aggressive volume
   resuscitation, replete K+, monitor gap.  Had decreased insulin
   requirement overnight and then gap rewidened
   - AG 16 this morning, has reopened likely due to not enough fluid
   [**Last Name (LF) 4915**], [**First Name3 (LF) 124**] monitor closely throughout day
   - Continue insulin gtt with D5NS fluids while pt continues to be NPO
   and clinical course still unpredictable
   - q1H FSG's
   - replete K+ in IVF
   - Check A1C
   .
   #. Acute oliguric renal failure: initially poor UOP, then did well with
   fluid [**First Name3 (LF) 4915**] and Cr from 3.2 to 2.0; probably prerenal
   etiology.  Again today UOP has decreased and Cr up to 2.7; again likely
   prerenal and will give aggressive fluids.  UOP has picked up on
   arrival.  No indication for acute hemodialysis at this time.
   - Aggressive volume challenge with intubation PRN
   - foley placement, follow UOP.
   - Renal ultrasound for obstruction, renal lytes
   - hold colchicine for renal failure, and renally dose all medications
   - follow lytes
   .
   #. Respiratory status: Tachypnea, on 2L NC at time of transfer, but
   some likelihood of manifesting ARDS and severe pulmonary complications
   given mildly severe pancreatitis.  tachypnea and tachycardia likely [**3-8**]
   to inadequate pain control on transfer.
   - lungs clear, tachypnea likely secondary to resp compensation in
   setting of acidosis; giving bicarb and following respiratory status for
   now
   - O2 PRN
   - Continue fluids and monitor
   .
   #. Acidemia/Electrolytes: worse today
   - Acidemia: follow VBG
   - Trend phosphate as well, aggressive repletion
   .
   #. Pain Control: Received fentanyl on presentation
   - still with pain, continue morphine PCA
   .
   #. HTN: Supportive care, hold outpatient BP meds in setting of severe
   acute pancreatitis.
   .
   #. Hyperlipidemia: Check lipid panel to r/o hypertriglyceridemia as
   cause for pancreatitis.
   - triglycerides not severely elevated enough to be likely cause of
   pancreatitis
   .
   #. Gout: hold colchicine in setting of ARF.
   .
   #. FEN: IVF's, strict NPO status -> has PICC, consider TPN in future
   .
   #. PPX:
   -DVT ppx with heparin SQ
   -Stress ulcer with PPI IV
   .
   ACCESS: PICC, one PIV
   .
   CODE STATUS: FULL
   .
   EMERGENCY CONTACT: on [**Name2 (NI) **] board
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-4-2**] 01:21 AM
   PICC Line - [**2134-4-2**] 04:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-04-03 11:42:00 Physician Attending Progress Note
Chief Complaint: pancreatitis, DKA
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo man admitted with malaise, DKA and pancreatitis.  Ketones have
   resolved, but now with worsening acidosis and continued abdominal pain.
   24 Hour Events:
 PICC LINE - START [**2134-4-2**] 04:45 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 12 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2134-4-2**] 04:43 PM
   Other medications:
   protonix
   s/q heparin
   insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-4-3**] 11:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 114 (105 - 121) bpm
   BP: 91/64(73) {85/64(72) - 156/80(181)} mmHg
   RR: 26 (23 - 42) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  5,384 mL
                                                                  2,275 mL
   PO:
             TF:
   IVF:
                                                                  5,384 mL
                                                                  2,275 mL
   Blood products:
   Total out:
                                                                  2,173 mL
                                                                    290 mL
   Urine:
                                                                  2,173 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,211 mL
                                                                  1,985 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.21/34/123/12/-13
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: diffusely
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.5 g/dL
   309 K/uL
   209 mg/dL
   2.7 mg/dL
   12 mEq/L
   4.6 mEq/L
   60 mg/dL
   113 mEq/L
   141 mEq/L
   35.5 %
   22.6 K/uL
        [image002.jpg]
                             [**2134-4-1**]  10:53 PM
                             [**2134-4-2**]  03:01 AM
                             [**2134-4-2**]  07:29 AM
                             [**2134-4-2**]  02:06 PM
                             [**2134-4-2**]  04:25 PM
                             [**2134-4-3**]  04:48 AM
                             [**2134-4-3**]  05:10 AM
                             [**2134-4-3**]  09:59 AM
   WBC
   19.1
   18.9
   15.3
   22.6
   Hct
   39.3
   39.2
   37.0
   35.5
   Plt
   436
   386
   259
   309
   Cr
   3.2
   2.8
   2.3
   2.0
   2.7
   TropT
   <0.01
   <0.01
   TCO2
   13
   14
   14
   Glucose
   354
   235
   141
   172
   209
   Other labs: PT / PTT / INR:12.7/25.1/1.1, CK / CKMB /
   Troponin-T:77/4/<0.01, ALT / AST:[**8-15**], Alk Phos / T Bili:74/0.4,
   Amylase / Lipase:438/820, Differential-Neuts:88.0 %, Lymph:6.3 %,
   Mono:5.4 %, Eos:0.2 %, Lactic Acid:1.2 mmol/L, Albumin:2.7 g/dL,
   LDH:224 IU/L, Ca++:8.1 mg/dL, Mg++:1.8 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   DKA:  AG has closed, but now slightly increased (to 16).
   Pancreatitis:  unclear precipitant
   Acute renal failure:  no urine output since this morning.  Push
   agressive fluids:  Change IVF to D5 with HCO3 as he has non-AG acidosis
   and this should help his breathing.
   Getting 1L IVF now.  Check renal U/S.  Could have developed ATN
   DM I:  Continue glucose and insulin
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-4-2**] 01:21 AM
   PICC Line - [**2134-4-2**] 04:45 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-04-04 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**4-3**] Events:
   - still tachypneic, consistent with metabolic acidosis compensation
   - aggressive IVF resusciation with D5W-bicarb and NS boluses
   - CXR showed worsening fluid overload
   - anion gap closing
   - still very tender in abdomen, on PCA pump
   - also c/o toothache (started pre hospitalization), has missing tooth
   and poor dentition, did not appreciate abscess
   - a line started to malfunction
   - sign language interpreter called in, patient exhausted but seemed to
   understand his illness, still appears to have severe underlying anxiety
   when he's awake
 ARTERIAL LINE - START [**2134-4-3**] 04:42 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 12 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-4-3**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2134-4-4**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-4-4**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 115 (110 - 120) bpm
   BP: 111/58(70) {64/28(37) - 111/67(75)} mmHg
   RR: 22 (20 - 39) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                 10,497 mL
                                                                  9,557 mL
   PO:
             TF:
   IVF:
                                                                 10,497 mL
                                                                  9,557 mL
   Blood products:
   Total out:
                                                                    461 mL
                                                                    390 mL
   Urine:
                                                                    461 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 10,036 mL
                                                                  9,167 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.33/33/98.[**Numeric Identifier 20**]/20/-7
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: very tachypneic (Expansion: Symmetric), (Breath
   Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: +TTP in
   epigastrum RUQ and LUQ, Obese
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, mental status
   more depressed today than yesterday
   Labs / Radiology
   242 K/uL
   10.4 g/dL
   186 mg/dL
   3.1 mg/dL
   20 mEq/L
   3.7 mEq/L
   49 mg/dL
   113 mEq/L
   143 mEq/L
   29.7 %
   15.0 K/uL
        [image002.jpg]
                             [**2134-4-2**]  02:06 PM
                             [**2134-4-2**]  04:25 PM
                             [**2134-4-3**]  04:48 AM
                             [**2134-4-3**]  05:10 AM
                             [**2134-4-3**]  09:59 AM
                             [**2134-4-3**]  06:00 PM
                             [**2134-4-3**]  06:16 PM
                             [**2134-4-3**]  10:36 PM
                             [**2134-4-3**]  11:56 PM
                             [**2134-4-4**]  03:34 AM
   WBC
   15.3
   22.6
   18.8
   15.0
   15.0
   Hct
   37.0
   35.5
   30.8
   29.9
   29.7
   Plt
   259
   309
   265
   251
   242
   Cr
   2.0
   2.7
   3.3
   3.2
   3.1
   TCO2
   13
   14
   14
   16
   18
   Glucose
   172
   209
   121
   158
   186
   Other labs: PT / PTT / INR:14.1/27.3/1.2, CK / CKMB /
   Troponin-T:77/4/<0.01, ALT / AST:[**8-15**], Alk Phos / T Bili:68/0.5,
   Amylase / Lipase:183/231, Differential-Neuts:95.0 %, Band:1.0 %,
   Lymph:1.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.7
   g/dL, LDH:237 IU/L, Ca++:6.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 52M with no current history of Diabetes, who is being
   transferred to [**Hospital1 5**] for further management of DKA, acute pancreatitis,
   and oliguric acute renal failure.
   .
   #. Acute pancreatitis: Unclear precipitant.  ?[**3-8**] to medications,
   hypertriglyceridemia (only mildly elevated), stone that passed or viral
   infection.  No ductal dilation by CT scan or U/S and LFTs normal.
   Aggressive volume resuscitation as likely with substantial third
   spacing - may require up to 10L of fluid per day.  Given negative CT
   scan for necrosis no indication to consider antibiotics at this point,
   although if spikes fever would consider rescanning and starting abx.
   - continue aggressive fluid [**Month/Day (2) 4915**] with D5NS with 3 amp bicarb
   at 250 cc/hr today with NS boluses PRN
   - fell behind with fluids overnight, will be very aggressive today
   - Triglycerides -> mildly elevated
   - abdominal U/S -> Limited study, no obvious intrahepatic ductal
   dilation
   - [**Last Name (un) **] score: 1% predicted mortality by [**Last Name (un) **] criteria at OSH.
   - appreciate surgery recs: no intervention at this time, will follow
   - Monitor ionized calcium
 at risk of precipitating calcium.
   - Trend CBC for bleeding.
   .
   #. DKA: Likely [**3-8**] to severe pancreatitis.  aggressive volume
   resuscitation, replete K+, monitor gap.  Had decreased insulin
   requirement overnight and then gap rewidened
   - AG 16 this morning, has reopened likely due to not enough fluid
   [**Last Name (LF) 4915**], [**First Name3 (LF) 124**] monitor closely throughout day
   - Continue insulin gtt with D5NS fluids while pt continues to be NPO
   and clinical course still unpredictable
   - q1H FSG's
   - replete K+ in IVF
   - Check A1C
   .
   #. Acute oliguric renal failure: initially poor UOP, then did well with
   fluid [**First Name3 (LF) 4915**] and Cr from 3.2 to 2.0; probably prerenal
   etiology.  Again today UOP has decreased and Cr up to 2.7; again likely
   prerenal and will give aggressive fluids.  UOP has picked up on
   arrival.  No indication for acute hemodialysis at this time.
   - Aggressive volume challenge with intubation PRN
   - foley placement, follow UOP.
   - Renal ultrasound for obstruction, renal lytes
   - hold colchicine for renal failure, and renally dose all medications
   - follow lytes
   .
   #. Respiratory status: Tachypnea, on 2L NC at time of transfer, but
   some likelihood of manifesting ARDS and severe pulmonary complications
   given mildly severe pancreatitis.  tachypnea and tachycardia likely [**3-8**]
   to inadequate pain control on transfer.
   - lungs clear, tachypnea likely secondary to resp compensation in
   setting of acidosis; giving bicarb and following respiratory status for
   now
   - O2 PRN
   - Continue fluids and monitor
   .
   #. Acidemia/Electrolytes: worse today
   - Acidemia: follow VBG
   - Trend phosphate as well, aggressive repletion
   .
   #. Pain Control: Received fentanyl on presentation
   - still with pain, continue morphine PCA
   .
   #. HTN: Supportive care, hold outpatient BP meds in setting of severe
   acute pancreatitis.
   .
   #. Hyperlipidemia: Check lipid panel to r/o hypertriglyceridemia as
   cause for pancreatitis.
   - triglycerides not severely elevated enough to be likely cause of
   pancreatitis
   .
   #. Gout: hold colchicine in setting of ARF.
   .
   #. FEN: IVF's, strict NPO status -> has PICC, consider TPN in future
   .
   #. PPX:
   -DVT ppx with heparin SQ
   -Stress ulcer with PPI IV
   .
   ACCESS: PICC, one PIV
   .
   CODE STATUS: FULL
   .
   EMERGENCY CONTACT: on [**Name2 (NI) **] board
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-4-2**] 01:21 AM
   PICC Line - [**2134-4-2**] 04:45 PM
   Arterial Line - [**2134-4-3**] 04:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-04-04 09:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52 yo man with DKA and acute pancreatitis, acute renal failure.
   Received aggressive IVF overnight, with  ?edema on CXR.  Urine output
   has improved.
   24 Hour Events:
 ARTERIAL LINE - START [**2134-4-3**] 04:42 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 13 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-4-4**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2134-4-4**] 07:50 AM
   Other medications:
   insulin drip
   morphine PCA
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-4-4**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 127 (110 - 127) bpm
   BP: 78/46(58) {56/42(48) - 140/106(181)} mmHg
   RR: 29 (20 - 39) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                 10,497 mL
                                                                 10,881 mL
   PO:
             TF:
   IVF:
                                                                 10,497 mL
                                                                 10,881 mL
   Blood products:
   Total out:
                                                                    461 mL
                                                                    505 mL
   Urine:
                                                                    461 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 10,036 mL
                                                                 10,376 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.33/33/98.[**Numeric Identifier 20**]/20/-7
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , Wheezes : upper
   airway)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   242 K/uL
   186 mg/dL
   3.1 mg/dL
   20 mEq/L
   3.7 mEq/L
   49 mg/dL
   113 mEq/L
   143 mEq/L
   29.7 %
   15.0 K/uL
        [image002.jpg]
                             [**2134-4-2**]  02:06 PM
                             [**2134-4-2**]  04:25 PM
                             [**2134-4-3**]  04:48 AM
                             [**2134-4-3**]  05:10 AM
                             [**2134-4-3**]  09:59 AM
                             [**2134-4-3**]  06:00 PM
                             [**2134-4-3**]  06:16 PM
                             [**2134-4-3**]  10:36 PM
                             [**2134-4-3**]  11:56 PM
                             [**2134-4-4**]  03:34 AM
   WBC
   15.3
   22.6
   18.8
   15.0
   15.0
   Hct
   37.0
   35.5
   30.8
   29.9
   29.7
   Plt
   259
   309
   265
   251
   242
   Cr
   2.0
   2.7
   3.3
   3.2
   3.1
   TCO2
   13
   14
   14
   16
   18
   Glucose
   172
   209
   121
   158
   186
   Other labs: PT / PTT / INR:14.1/27.3/1.2, CK / CKMB /
   Troponin-T:77/4/<0.01, ALT / AST:[**8-15**], Alk Phos / T Bili:68/0.5,
   Amylase / Lipase:183/231, Differential-Neuts:95.0 %, Band:1.0 %,
   Lymph:1.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.6 mmol/L, Albumin:2.7
   g/dL, LDH:237 IU/L, Ca++:6.9 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR:  mildly increase effusion
   Assessment and Plan
   Pancreatitis:  Belly exam improved today -soft and nontender
   Acute renal failure:  Will switch fluids over to D5LR at 200cc/hour.
   Titrate IVF to urine output.  Creatinine improved after peaking at
   3.3   Likely due to prerenal state with possible
   component of ATN.
   DKA:  AG currently 10.  Continue insulin drip and D5 as not taking PO.
   Respiratory distress: tachypnea improved with improvement of acidosis.
   No evidence of pulmonary edema by exam or CXR.
   ICU Care
   Nutrition:
   Glycemic Control:  Insulin infusion
   Lines:
   20 Gauge - [**2134-4-2**] 01:21 AM
   PICC Line - [**2134-4-2**] 04:45 PM
   Arterial Line - [**2134-4-3**] 04:42 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2134-04-05 06:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - insulin gtt titrated down, GAP closed
   - surgery following, no acute interventions indicated
   - ordered for post-pyloric feeding tube [**4-5**]
 BLOOD CULTURED - At [**2134-4-4**] 03:00 PM
   from PICC
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2134-4-4**] 07:50 AM
   Heparin Sodium (Prophylaxis) - [**2134-4-5**] 12:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-4-5**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.9
C (100.2
   HR: 114 (113 - 127) bpm
   BP: 113/71(84) {66/39(51) - 116/107(109)} mmHg
   RR: 22 (19 - 47) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                 15,536 mL
                                                                  1,081 mL
   PO:
             TF:
   IVF:
                                                                 15,536 mL
                                                                  1,081 mL
   Blood products:
   Total out:
                                                                  2,220 mL
                                                                    835 mL
   Urine:
                                                                  2,220 mL
                                                                    835 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 13,316 mL
                                                                    246 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese; easily
   arousable to light touch
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: tachypneic (Expansion: Symmetric), (Breath Sounds:
   Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: +TTP in
   epigastrum RUQ and LUQ, Obese
   Extremities: [**2-5**]+ pitting edema in dependent areas
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, mental status
   more depressed today than yesterday
   Labs / Radiology
   270 K/uL
   9.9 g/dL
   101 mg/dL
   2.2 mg/dL
   24 mEq/L
   3.6 mEq/L
   39 mg/dL
   112 mEq/L
   144 mEq/L
   28.7 %
   15.4 K/uL
        [image002.jpg]
                             [**2134-4-3**]  05:10 AM
                             [**2134-4-3**]  09:59 AM
                             [**2134-4-3**]  06:00 PM
                             [**2134-4-3**]  06:16 PM
                             [**2134-4-3**]  10:36 PM
                             [**2134-4-3**]  11:56 PM
                             [**2134-4-4**]  03:34 AM
                             [**2134-4-4**]  02:55 PM
                             [**2134-4-4**]  09:20 PM
                             [**2134-4-5**]  04:16 AM
   WBC
   18.8
   15.0
   15.0
   15.4
   Hct
   30.8
   29.9
   29.7
   28.7
   Plt
   265
   251
   242
   270
   Cr
   3.3
   3.2
   3.1
   2.6
   2.4
   2.2
   TCO2
   14
   14
   16
   18
   Glucose
   121
   158
   186
   113
   81
   101
   Other labs: PT / PTT / INR:13.2/25.7/1.1, CK / CKMB /
   Troponin-T:77/4/<0.01, ALT / AST:[**8-15**], Alk Phos / T Bili:68/0.5,
   Amylase / Lipase:183/64, Differential-Neuts:95.0 %, Band:1.0 %,
   Lymph:1.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.7
   g/dL, LDH:237 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 52M with no previous history of diabetes who was
   transferred from OSH for further management of DKA, acute pancreatitis,
   and oliguric acute renal failure.
   .
   #. Acute pancreatitis: Unclear precipitant.  ?[**3-8**] to medications,
   hypertriglyceridemia (only mildly elevated), stone that passed or viral
   infection.  No alcohol history. No ductal dilation by CT scan or U/S
   and LFTs normal. Has been aggressively volume resuscitated
 27L
   positive for LOS. Given negative CT scan for necrosis no indication to
   consider antibiotics at this point, although if spikes fever would
   consider rescanning and starting abx.
   - aggressively rehydrated, now has signs of volume overload clinically.
   Trial of small dose Lasix today
   - [**Doctor First Name 91**] following along; no surgical interventions indicated at this
   time.
   - no reimaging at this time, consider if he spikes; abx if hemodynamics
   / fever curve changes
   - Triglycerides -> mildly elevated
   - abdominal U/S -> Limited study, no obvious intrahepatic ductal
   dilation; If LFTs/Lipase increase, recheck U/S
   - [**Last Name (un) **] score: 1% predicted mortality by [**Last Name (un) **] criteria at OSH.
   - Monitor ionized calcium
 at risk of precipitating calcium.
   - Trend CBC for bleeding.
   - Review outside radiographic CTs with radiology
   .
   #. DKA: Likely [**3-8**] to severe pancreatitis.  Aggressive volume
   resuscitation, replete K+, monitor gap.  Had decreased insulin
   requirement yesterday and then gap rewidened; continues on insulin gtt
   - AG closed, continuing insulin gtt and D10 (switched from D5 to reduce
   fluid intake given volume overload on exam) today
   - q1H FSG's
   - replete K+ in IVF
   - Plan for transition to SQ insulin once post-pyloric dobhoff is placed
   and pt has a steady means to carbohydrate intake.
   .
   #. Acute oliguric renal failure: Likely prerenal in etiology. Cr
   continuing to trend downward. UOP adequate at this time.
   - Trial of Lasix today for volume overload
 monitor UOP
   - f/u renal lytes
   - hold colchicine for renal failure, and renally dose all medications
   .
   #. Respiratory status: Tachypnea, on 2L NC at time of transfer, but
   some likelihood of manifesting ARDS and severe pulmonary complications
   given mildly severe pancreatitis.  tachypnea and tachycardia likely [**3-8**]
   to inadequate pain control on transfer.
   - tachypnea better as his acidosis no longer needs heavy compensation
   - cardiac wheezes from fluid overload, intubate PRN
   - Diuresis today so pt can better tolerate Dobhoff placement tomorrow
   - Wean O2 as tolerated.
   - Continue fluids and monitor
   .
   #. Acidemia/Electrolytes: improving
   - Acidemia: follow ABG
   - Trend phosphate as well, aggressive repletion
   .
   #. Pain Control: Received fentanyl on presentation
   - still with pain, pt unable to physically use PCA; will give morphine
   boluses PRN instead
   .
   #. HTN: Supportive care, hold outpatient BP meds in setting of severe
   acute pancreatitis.
   .
   #. Ileus: No BM since admission; likely due to NPO status and narcotics
   for pain
   - Colace
   .
   #. Gout: hold colchicine in setting of ARF.
   .
   #. FEN: IVF's, strict NPO status -> plan for post pyloric tube tomorrow
   after diuresis today
   .
   #. PPX:
   -DVT ppx with heparin SQ
   -Stress ulcer with Famotidine
   .
   ACCESS: PICC, one PIV
   .
   CODE STATUS: FULL
   .
   EMERGENCY CONTACT: on [**Name2 (NI) **] board
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-4-2**] 01:21 AM
   PICC Line - [**2134-4-2**] 04:45 PM
   Arterial Line - [**2134-4-3**] 04:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-04-06 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Transfer from OSH for pancreatitis, and renal failure
   24 Hour Events:
   - [**Hospital1 5**] wet read of [**Hospital **] Hosp ABD CT: only able to see pancreatitis
   as no IV contrast given, no pseudocyst seen
   - Lasix 20 mg IV x2 given; started Lasix gtt to goal UOP 250cc/hr (goal
   2L negative overnight)
   - A line not drawing back, but tracing fine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Insulin - Regular - 4 units/hour
   Furosemide (Lasix) - 1.5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2134-4-5**] 06:13 PM
   Heparin Sodium (Prophylaxis) - [**2134-4-6**] 12:00 AM
   Morphine Sulfate - [**2134-4-6**] 04:22 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-4-6**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.7
C (98.1
   HR: 110 (110 - 119) bpm
   BP: 125/72(89) {94/63(75) - 130/80(96)} mmHg
   RR: 24 (19 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,055 mL
                                                                    397 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                  2,955 mL
                                                                    397 mL
   Blood products:
   Total out:
                                                                  6,095 mL
                                                                  2,430 mL
   Urine:
                                                                  6,095 mL
                                                                  2,430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,040 mL
                                                                 -2,033 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese; awake and alert
   Eyes / Conjunctiva: PERRL. +Green discharge L eye
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: tachypneic (Expansion: Symmetric), (Breath Sounds:
   Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: +TTP in
   epigastrum RUQ and LUQ, Obese
   Extremities: 2+ pitting edema in dependent areas
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Mouth
   [**Location (un) 118**] and light touch, Movement: Not assessed, Tone: Not assessed,
   mental status more depressed today than yesterday
   Labs / Radiology
   320 K/uL
   9.4 g/dL
   108 mg/dL
   1.7 mg/dL
   26 mEq/L
   3.9 mEq/L
   32 mg/dL
   109 mEq/L
   143 mEq/L
   27.6 %
   15.9 K/uL
        [image002.jpg]
                             [**2134-4-3**]  06:00 PM
                             [**2134-4-3**]  06:16 PM
                             [**2134-4-3**]  10:36 PM
                             [**2134-4-3**]  11:56 PM
                             [**2134-4-4**]  03:34 AM
                             [**2134-4-4**]  02:55 PM
                             [**2134-4-4**]  09:20 PM
                             [**2134-4-5**]  04:16 AM
                             [**2134-4-5**]  05:54 PM
                             [**2134-4-6**]  03:00 AM
   WBC
   18.8
   15.0
   15.0
   15.4
   15.9
   Hct
   30.8
   29.9
   29.7
   28.7
   27.6
   Plt
   265
   251
   242
   270
   320
   Cr
   3.3
   3.2
   3.1
   2.6
   2.4
   2.2
   1.8
   1.7
   TCO2
   16
   18
   Glucose
   121
   158
   186
   113
   81
   101
   61
   108
   Other labs: PT / PTT / INR:14.1/28.4/1.2, Ca++:7.7 mg/dL, Mg++:2.0
   mg/dL, PO4:3.6 mg/dL, lipase 39, lactate 1.3
   Assessment and Plan
   Mr. [**Known lastname **] is a 52M with no previous history of diabetes who was
   transferred from OSH for further management of DKA, acute pancreatitis,
   and oliguric acute renal failure.
   .
   #. Acute pancreatitis: Unclear precipitant.  ?[**3-8**] to medications,
   hypertriglyceridemia (only mildly elevated), stone that passed or viral
   infection.  No alcohol history. No ductal dilation by CT scan or U/S
   and LFTs normal. Has been aggressively volume resuscitated
 21L
   positive for LOS. Given negative CT scan for necrosis no indication to
   consider antibiotics at this point, although if spikes fever would
   consider rescanning and starting abx.
   - aggressively rehydrated, had signs of volume overload clinically, on
   lasix drip.
   - [**Doctor First Name 91**] following along; no surgical interventions indicated at this
   time.
   - place post-pyloric feeding tube today and start tube feeds vs. PO
   trial pending final surgery recs
   - no reimaging at this time, consider if he spikes; abx if hemodynamics
   / fever curve changes
   - Triglycerides -> mildly elevated
   - abdominal U/S -> Limited study, no obvious intrahepatic ductal
   dilation; If LFTs/Lipase increase, recheck U/S
   - [**Last Name (un) **] score: 1% predicted mortality by [**Last Name (un) **] criteria at OSH.
   - Monitor ionized calcium
 at risk of precipitating calcium.
   - Trend CBC for bleeding.
   .
   #. DKA: Likely [**3-8**] to severe pancreatitis on top of likely T2DM given
   HbAlc of 10.9.  Gap has normalized at 8 today with aggressive volume
   resuscitation. Insulin gtt at 3U/hr today.
   - AG closed, continuing insulin gtt and D10 (switched from D5 to reduce
   fluid intake given volume overload on exam)
   - q2H FSG's
   - replete K+ in IVF
   - Plan for transition to SQ insulin once post-pyloric dobhoff is placed
   and pt has steady carbohydrate intake.
   - Obtain [**Last Name (un) 72**] consult.
   .
   #. Acute oliguric renal failure: Likely prerenal in etiology. Cr
   continuing to trend downward. UOP at goal at this time on lasix drip
   - Continue lasix drip.
   - Monitor electrolytes while on lasix.
   - hold colchicine for renal failure, and renally dose all medications
   .
   #. Respiratory status: Tachypnea, on 2L NC at time of transfer, but
   some likelihood of manifesting ARDS and severe pulmonary complications
   given mildly severe pancreatitis.  tachypnea and tachycardia likely [**3-8**]
   to inadequate pain control on transfer.
   - tachypnea improved today.
   - Wean O2 as tolerated.
   - Continue fluids and monitor
   .
   #. Acidemia/Electrolytes: improving
   - Acidemia: follow ABG
   - Trend phosphate as well, aggressive repletion
   .
   #. Pain Control: Received fentanyl on presentation
   - still with pain, pt unable to physically use PCA; will give morphine
   boluses PRN instead
   .
   #. HTN: BP meds held until today but BP trending upwards. Holding home
   Diovan/HCTZ given renal failure.
   - Start Amlodipine 5mg today.
   .
   #. Ileus: No BM since admission; likely due to NPO status and narcotics
   for pain
   - Colace, Senna, enema x1
   - Check KUB
   .
   #. Conjunctivitis: Left Eye
   - Erythromycin ointment QID, started [**2134-4-6**].
   .
   #. Gout: hold colchicine in setting of ARF.
   .
   #. FEN: IVF's. Plan for post-pyloric tube feeds vs. PO trial pending
   surgery recs and Dobhoff placement.
   .
   #. PPX:
   -DVT ppx with heparin SQ
   -Stress ulcer with Famotidine
   .
   ACCESS: PICC, one PIV, A Line
   - Pull A-line today.
   .
   CODE STATUS: FULL
   .
   EMERGENCY CONTACT: on [**Name2 (NI) **] board
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2134-4-2**] 01:21 AM
   PICC Line - [**2134-4-2**] 04:45 PM
   Arterial Line - [**2134-4-3**] 04:42 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4988**], MSIV
   MICU Intern Addendum:
   Patient seen and examined with MSIV and MICU team.  Please see
   excellent MSIV note above for further details.  Briefly, patient is a
   52 yo M who presented with pancreatitis and DKA which are continuing to
   resolve.  Patient remains on insulin gtt and D10W for carbohydrate
   source as not yet taking POs.  FS 79-164 over last 24H on 4units
   insulin per hour.  Awaiting surgery recs for post-pyloric tube
   placement vs. PO feeding.  WBC and lipase cont. to trend downward.
   Patient continues to have some abdominal discomfort.  Cont. morphine
   boluses.  Will check a KUB.  Increase bowel regimen.
   Renal failure improving with diuresis.  On lasix gtt.  Goal
 2 to 3L
   per day.

2134-04-07 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2134-4-6**] 02:45 PM
   - KUB - contrast from prior abd CT, no air-fluid levels
   - Biscodyl PR - had large BM overnight
   - A line pulled
   - Failed Dobhoff placement due to agitation. No POs given.
   - [**First Name8 (NamePattern2) **] [**Last Name (un) 72**] recs: Started 50mg Lantus SC qHS, adjust insulin gtt per
   protocol. Once taking POs, transition to ISS SQ. Pt will likely need
   insulin for forseeable future pending recovery of pancreatic beta cell
   function.
   - Nausea/bilious emesis x1 this AM.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 2 mg/hour
   Insulin - Regular - 2 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2134-4-6**] 07:48 AM
   Morphine Sulfate - [**2134-4-6**] 09:30 PM
   Heparin Sodium (Prophylaxis) - [**2134-4-7**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-4-7**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.6
C (97.8
   HR: 100 (97 - 116) bpm
   BP: 131/78(90) {99/49(62) - 143/89(99)} mmHg
   RR: 23 (21 - 41) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,460 mL
                                                                    621 mL
   PO:
             TF:
   IVF:
                                                                  1,460 mL
                                                                    621 mL
   Blood products:
   Total out:
                                                                  5,725 mL
                                                                    895 mL
   Urine:
                                                                  5,725 mL
                                                                    895 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,265 mL
                                                                   -274 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///32/
   Physical Examination
   GEN: Awake, alert, well-nourished, diaphoretic.
   HEENT: Normocephalic. Sclerae anicteric. +crusting at L eye. Oropharynx
   clear.
   CV: RRR. Normal S1/S2. No murmurs,rubs, gallops.
   LUNGS: Clear to auscultation. No wheezes, rales, rhonchi.
   ABD: Obese, +high-pitched BS. Markedly tender to palpation in
   epigastrum. No guarding.
   EXT: WWP. 1+ edema bilateral feet.
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  Not assessed
   Neurologic: Alert and oriented. Frustrated about not eating. Responds
   to [**Location (un) 118**] lips and writing.  Tone: Normal.
   Labs / Radiology
   320 K/uL
   9.4 g/dL
   116 mg/dL
   1.4 mg/dL
   32 mEq/L
   3.4 mEq/L
   26 mg/dL
   106 mEq/L
   143 mEq/L
   27.6 %
   15.9 K/uL
        [image002.jpg]
                             [**2134-4-3**]  10:36 PM
                             [**2134-4-3**]  11:56 PM
                             [**2134-4-4**]  03:34 AM
                             [**2134-4-4**]  02:55 PM
                             [**2134-4-4**]  09:20 PM
                             [**2134-4-5**]  04:16 AM
                             [**2134-4-5**]  05:54 PM
                             [**2134-4-6**]  03:00 AM
                             [**2134-4-6**]  03:03 PM
                             [**2134-4-7**]  12:51 AM
   WBC
   15.0
   15.0
   15.4
   15.9
   Hct
   29.9
   29.7
   28.7
   27.6
   Plt
   [**Telephone/Fax (3) 5010**]20
   Cr
   3.2
   3.1
   2.6
   2.4
   2.2
   1.8
   1.7
   1.4
   1.4
   TCO2
   18
   Glucose
   158
   186
   113
   81
   101
   61
   108
   111
   116
   Other labs: PT / PTT / INR:14.1/28.4/1.2, CK / CKMB /
   Troponin-T:77/4/<0.01, ALT / AST:[**8-15**], Alk Phos / T Bili:68/0.5,
   Amylase / Lipase:183/39, Differential-Neuts:95.0 %, Band:1.0 %,
   Lymph:1.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.7
   g/dL, LDH:237 IU/L, Ca++:7.9 mg/dL, Mg++:1.6 mg/dL, PO4:3.2 mg/dL
   Mr. [**Known lastname **] is a 52M with no previous history of diabetes who was
   transferred from OSH for further management of DKA, acute pancreatitis,
   and oliguric acute renal failure.
   .
   #.Ileus: No BM until HD6 with colace/senna/bisacodyl PR. Likely
   multifactorial etiology due to pancreatitis, fluid overload, narcotic
   pain medications. KUB [**4-6**] showed multiple dilated loops of small bowel
   w/ retained contrast but no air/fluid levels, read as Ileus vs. early
   obstruction. Also with bilious emesis today and [**11-13**] abdominal pain,
   no peritoneal signs.
   - NG Tube to suction
   - Strict NPO, including medications.
   - Repeat KUB. Consider Abd CT.
   - Serial ABD exams.
   - Appreciate surgery recs.
   - Consider TPN as patient has been NPO x 6 days and will likely not
   progress to PO intake for several more days.
   - Avoid narcotic pain medications if possible.
   - Colace [**Hospital1 **].
   .
   #. Acute pancreatitis: Unclear precipitant.  ?[**3-8**] to medications,
   hypertriglyceridemia (only mildly elevated), stone that passed or viral
   infection.  No alcohol history. No ductal dilation by CT scan or U/S
   and LFTs normal. Has been aggressively volume resuscitated
 18.9 L
   positive for LOS. Given negative CT scan for necrosis no indication to
   consider antibiotics at this point, although if spikes fever would
   consider rescanning and starting abx. Failed post-pyloric Dobhoff
   placement due to agitation.  Aggressively rehydrated, responded well to
   lasix drip.
   - D/C lasix drip. Start Lasix Bolus 40mg IV prn for goal I/O -1 to 2L
   today.
   - [**Doctor First Name 91**] following along; no surgical interventions indicated at this
   time.
   - If spikes, consider reimaging and abx.
   - If LFTs/Lipase increase, recheck U/S
   - [**Last Name (un) **] score: 1% predicted mortality by [**Last Name (un) **] criteria at OSH.
   - Monitor ionized calcium
 at risk of precipitating calcium.
   - Trend CBC for bleeding. Stable since admission.
   .
   #. DKA: Likely [**3-8**] to severe pancreatitis on top of likely T2DM given
   HbAlc of 11.9.  Gap has normalized. Seen by [**Last Name (un) 72**] consult [**4-6**] and
   started on qHS lantus SQ. Insulin gtt at 2U/hr today. [**First Name8 (NamePattern2) **] [**Name (NI) 72**], pt
   will likely need insulin after discharge until endocrine pancreatic
   function returns.
   - AG closed, continuing insulin gtt and D10 (switched from D5 to reduce
   fluid intake given volume overload on exam)
   - 50U SC lantus qHS + insulin gtt
   - q2H FSG's
   - replete K+ in IVF
   - If TPN starts today, will add insulin to TPN.
   .
   #. Acute oliguric renal failure: Likely prerenal in etiology. Cr
   continuing to trend downward. UOP consistently high on lasix drip
   - Lasix bolus for I/O goal -1 to 2L today.
   - Monitor electrolytes while on lasix.
   - hold colchicine for renal failure, and renally dose all medications
   .
   #. Respiratory status: Tachypnea, on 2L NC at time of transfer, but
   some likelihood of manifesting ARDS and severe pulmonary complications
   given mildly severe pancreatitis.  tachypnea and tachycardia likely [**3-8**]
   to inadequate pain control on transfer. Tachypnea continues today,
   likely due to pain.
   - Wean O2 as tolerated.
   - Continue fluids and monitor
   .
   #. Acidemia/Electrolytes: Acidemia improved.
   - Acidemia: follow ABG/VBG
   - Trend phosphate w/ aggressive repletion
   .
   #. Pain Control: Received fentanyl on presentation and morphine boluses
   for admission.
   - Avoid narcotics today pending surgery recs as likely are contributing
   to ileus.
   .
   #. HTN: BP meds held until today but BP trending upwards. Holding home
   Diovan/HCTZ given renal failure. Gave Amlodipine 5mg yesterday but will
   hold today as has constipating side effect.
   - Continue to monitor BP and adjust regimen if hypertensive.
   .
   #. Conjunctivitis: Left Eye
   - Erythromycin ointment QID, started [**2134-4-6**].
   .
   #. Gout: hold colchicine in setting of ARF.
   .
   #. FEN: IVF's. Strict NPO for now. Plan
   - Plan for TPN today pending surgery recs. .
   .
   #. PPX:
   -DVT ppx with heparin SQ
   -Stress ulcer with IV Famotidine
   .
   ACCESS: PICC
   .
   CODE STATUS: FULL
   .
   EMERGENCY CONTACT: on [**Name2 (NI) **] board
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2134-4-2**] 04:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4988**], MSIV

2134-04-08 07:10:00 Physician Resident Progress Note
Chief Complaint: DKA, Pancreatitis, Acute Renal Failure
   24 Hour Events:
   - KUB showed worsening distention, but abdominal pain improved
   - sc insulin increased and drip stopped
   - switched from IV drip to bolus lasix
   - No TPN started per surgery
   - CT Abdomen w/ IV contrast obtained per surgery
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2134-4-7**] 09:31 AM
   Furosemide (Lasix) - [**2134-4-7**] 11:34 AM
   Morphine Sulfate - [**2134-4-7**] 01:52 PM
   Heparin Sodium (Prophylaxis) - [**2134-4-8**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-4-8**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98.1
   HR: 97 (95 - 110) bpm
   BP: 124/80(90) {109/63(72) - 140/89(98)} mmHg
   RR: 23 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,755 mL
                                                                    406 mL
   PO:
             TF:
   IVF:
                                                                  1,755 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                  3,510 mL
                                                                    355 mL
   Urine:
                                                                  3,250 mL
                                                                    355 mL
   NG:
                                                                    260 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,755 mL
                                                                     51 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///35/
   Physical Examination
   GEN: Awake, alert, well-nourished, comfortable.
   HEENT: Normocephalic. Sclerae anicteric.  Oropharynx clear.
   CV: RRR. Normal S1/S2. No murmurs,rubs, gallops.
   LUNGS: Scattered high-pitched wheezes bilaterally. No rales.
   ABD: Obese, +high-pitched BS. No tenderness to palpation. No guarding.
   EXT: WWP. 1+ edema bilateral feet.
   Peripheral Vascular: (Right radial pulse: 2+), (Left radial pulse: 2+),
   (Right DP pulse: 2+), (Left DP pulse: 2+)
   Skin:  Not assessed
   Neurologic: Alert and oriented. Frustrated about not eating. Responds
   to [**Location (un) 118**] lips and writing.  Tone: Normal.
   Labs / Radiology
   401 K/uL
   9.5 g/dL
   73 mg/dL
   1.1 mg/dL
   35 mEq/L
   3.0 mEq/L
   20 mg/dL
   104 mEq/L
   144 mEq/L
   28.2 %
   13.2 K/uL
        [image002.jpg]
                             [**2134-4-4**]  02:55 PM
                             [**2134-4-4**]  09:20 PM
                             [**2134-4-5**]  04:16 AM
                             [**2134-4-5**]  05:54 PM
                             [**2134-4-6**]  03:00 AM
                             [**2134-4-6**]  03:03 PM
                             [**2134-4-7**]  12:51 AM
                             [**2134-4-7**]  05:20 AM
                             [**2134-4-7**]  05:00 PM
                             [**2134-4-8**]  03:43 AM
   WBC
   15.4
   15.9
   15.8
   13.2
   Hct
   28.7
   27.6
   26.6
   28.2
   Plt
   [**Telephone/Fax (3) 5033**]01
   Cr
   2.6
   2.4
   2.2
   1.8
   1.7
   1.4
   1.4
   1.3
   1.2
   1.1
   Glucose
   113
   81
   101
   61
   108
   111
   116
   119
   103
   73
   Other labs: PT / PTT / INR:14.3/24.9/1.2 ALT / AST:[**11-20**], Alk Phos / T
   Bili:305/0.7, Amylase / Lipase:40/61, LDH:319 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname **] is a 52M with no previous history of diabetes who was
   transferred from OSH for further management of DKA, acute pancreatitis,
   and oliguric acute renal failure.
   .
   #.Ileus: No BM until HD6 with colace/senna/bisacodyl PR. Likely
   multifactorial etiology due to pancreatitis, fluid overload, narcotic
   pain medications. KUB [**4-6**] showed multiple dilated loops of small bowel
   w/ retained contrast but no air/fluid levels, read as Ileus vs. early
   obstruction. One episode bilious emesis on [**5-7**] w/ [**11-13**] abd pain, no
   peritoneal signs. Repeat KUB - Worsening distention of the large and
   small bowel and stomach. No NGT placed. No TPN per surgery. Pain
   significantly improved today. CTA obtained today, but pt unable to
   tolerate PO contrast.
   - NPO.
   - Serial ABD exams.
   - F/U CT abd final read.
   - Surgery following.
   - Avoid narcotic pain medications if possible.
   - Colace [**Hospital1 **]. Encourage OOB, PT to mobilize.
   - Will revisit ?TPN with surgery but likely patient will be able to eat
   w/in next few days.
   .
   #. Acute pancreatitis: Unclear precipitant.  ?[**3-8**] to medications,
   hypertriglyceridemia (only mildly elevated), stone that passed or viral
   infection.  No alcohol history. No ductal dilation by CT scan or U/S
   and LFTs normal. Has been aggressively volume resuscitated. Given
   negative CT scan for necrosis no indication to consider antibiotics at
   this point, although if spikes fever would consider rescanning and
   starting abx. Failed post-pyloric Dobhoff placement due to agitation.
   Has been aggressively rehydrated and required lasix drip diuresis.
   D/C
d drip [**4-6**]. Given IV bolus lasix 40mg x1 [**4-7**] with good UOP.  Alk
   Phos elevated [**5-7**].
   - Recheck Alk Phos today. Consider repeat RUQ U/S if concern for
   biliary obstruction.
   - [**Doctor First Name 91**] following along; no surgical interventions indicated at this
   time.
   - If spikes, abx. Will check CT Abd today to rule out pseudocyst.
   - [**Last Name (un) **] score: 1% predicted mortality by [**Last Name (un) **] criteria at OSH.
   - Monitor ionized calcium
 at risk of precipitating calcium.
   - Trend CBC for bleeding. Stable since admission.
   - Will hold lasix for now and encourage OOB, PT to mobilize fluids.
   .
   #. DKA: Likely [**3-8**] to severe pancreatitis on top of likely T2DM given
   HbAlc of 11.9.  Gap has normalized. Seen by [**Last Name (un) 72**] consult [**4-6**] and
   started on qHS lantus SQ. Insulin gtt d/c
d on [**5-7**] and pt transitioned
   to SC ISS, [**First Name8 (NamePattern2) 77**] [**Last Name (un) 72**]. [**Name (NI) 72**], pt will likely need insulin after
   discharge until endocrine pancreatic function returns.
   - AG closed, continuing D10. Lantus 70U SC qHS standing.
   - q2h FS w/ q6h sliding scale insulin
   - replete K+ in IVF
   - If TPN started can add 30U insulin to TPN.
   .
   #. Acute oliguric renal failure: Likely prerenal in etiology. Cr
   improved since admission, 1.1 today. UOP adequate. Transitioned off
   lasix drip to bolus lasix yesterday, to meet I/O goal
 1.5L today.
   - Continue to monitor electrolytes.
   - hold colchicine for renal failure, and renally dose all medications
   .
   #. Respiratory status: Tachypnea, on 2L NC at time of transfer, but
   some likelihood of manifesting ARDS and severe pulmonary complications
   given mildly severe pancreatitis.  tachypnea and tachycardia likely [**3-8**]
   to inadequate pain control on transfer. Tachypnea continues today,
   likely due to pain. O2 requirement and tachypnea decreasing today.
   - Wean O2 as tolerated.
   - Continue fluids and monitor.
   .
   #. Pain Control: Received fentanyl on presentation and morphine boluses
   on admission. Received morphine 2mg x2 [**5-7**]. Pain well controlled today.
   - Avoiding narcotics as much as possible due to ileus.
   .
   #. HTN: BP meds held until today but BP trending upwards. Holding home
   Diovan/HCTZ given renal failure. Trial of amlodipine x1, but holding
   for now due to constipating effect.
   - Continue to monitor BP and adjust regimen if hypertensive.
   .
   #. Conjunctivitis: Left Eye
   - Erythromycin ointment QID, started [**2134-4-6**].
   .
   #. Gout: hold colchicine in setting of ARF.
   .
   #. FEN: IVF's. NPO. Will revisit TPN vs. PPN with surgery today.
   .
   #. PPX:
   -DVT ppx with heparin SQ
   -Stress ulcer with IV Famotidine
   .
   ACCESS: PICC, Peripheral IV.
   .
   CODE STATUS: FULL
   .
   EMERGENCY CONTACT: on [**Name2 (NI) **] board
   .
   DISPOSITION: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2134-4-2**] 04:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   [**First Name11 (Name Pattern1) **] [**Initial (NamePattern1) **] [**Last Name (NamePattern1) 4988**], MSIV

2134-04-08 12:18:00 Physician Attending Progress Note
Chief Complaint: DKA
   Pancreatitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   N/V and worsening abdominal distention noted--patient refused
   Pt to sq insulin dosing
   TPN held
   CT Abd raised as possible test by surgical team--completed this am.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2134-4-7**] 01:52 PM
   Heparin Sodium (Prophylaxis) - [**2134-4-8**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-4-8**] 12:13 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 94 (94 - 110) bpm
   BP: 132/83(94) {109/63(72) - 140/89(98)} mmHg
   RR: 25 (15 - 33) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,755 mL
                                                                    658 mL
   PO:
             TF:
   IVF:
                                                                  1,755 mL
                                                                    658 mL
   Blood products:
   Total out:
                                                                  3,510 mL
                                                                    540 mL
   Urine:
                                                                  3,250 mL
                                                                    540 mL
   NG:
                                                                    260 mL
   Stool:
   Drains:
   Balance:
                                                                 -1,755 mL
                                                                    118 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///35/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Distended, No(t) Tender: Not present this morning
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.5 g/dL
   401 K/uL
   73 mg/dL
   1.1 mg/dL
   35 mEq/L
   3.0 mEq/L
   20 mg/dL
   104 mEq/L
   144 mEq/L
   28.2 %
   13.2 K/uL
        [image002.jpg]
                             [**2134-4-4**]  02:55 PM
                             [**2134-4-4**]  09:20 PM
                             [**2134-4-5**]  04:16 AM
                             [**2134-4-5**]  05:54 PM
                             [**2134-4-6**]  03:00 AM
                             [**2134-4-6**]  03:03 PM
                             [**2134-4-7**]  12:51 AM
                             [**2134-4-7**]  05:20 AM
                             [**2134-4-7**]  05:00 PM
                             [**2134-4-8**]  03:43 AM
   WBC
   15.4
   15.9
   15.8
   13.2
   Hct
   28.7
   27.6
   26.6
   28.2
   Plt
   [**Telephone/Fax (3) 5033**]01
   Cr
   2.6
   2.4
   2.2
   1.8
   1.7
   1.4
   1.4
   1.3
   1.2
   1.1
   Glucose
   113
   81
   101
   61
   108
   111
   116
   119
   103
   73
   Other labs: PT / PTT / INR:14.3/24.9/1.2, CK / CKMB /
   Troponin-T:77/4/<0.01, ALT / AST:[**11-20**], Alk Phos / T Bili:305/0.7,
   Amylase / Lipase:40/61, Differential-Neuts:95.0 %, Band:1.0 %,
   Lymph:1.0 %, Mono:3.0 %, Eos:0.0 %, Lactic Acid:1.3 mmol/L, Albumin:2.1
   g/dL, LDH:319 IU/L, Ca++:7.7 mg/dL, Mg++:2.1 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   52 yo male admit with DKA and acute pancreatitis.  He has had some
   issue with persistent nausea and abdominal distention but with improved
   exam through to this morning.  Importantly patient has been able to
   wean of IV insulin and return to SQ dosing only.
   1)DKA-NPO in the setting of ileus and resolving pancreatitis
   -Lantus
   -D10
   -FS q 6 hours
   -Consider po narcan or e-mycin is needed
   2)Pancreatitis-NPO
   -Continue to follow exam
   -CT scan completed but not uploaded/read
will need to follow up
   -Return to po
   -Attend to GB on CT scan
   ICU Care
   Nutrition: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2134-4-2**] 04:45 PM
   20 Gauge - [**2134-4-8**] 09:22 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
to floor
   Total time spent: 35 minutes